US07314886B2
36.A. Synthesis of 2-Hydroxyimino-N-(2-isopropyl-phenyl)-acetamide
A mixture of 2-isopropylaniline (4.7 g, 35 mmol), Na2SO4 (30.0 g), concentrated hydrochloride (3 mL), chloral hydrate (6.5 g), hydroxylamine hydrochloride (8.00 g) in water (150 mL) was heated at 85° C. for 40 minutes. After cooling to room temperature, it was extracted with ethyl acetate. The extracts were dried over magnesium sulfate and evaporated to dryness. Flash chromatography on silica gel provided 4.357 g (54%) of the title compound as solid.

reactant | 2-isopropylaniline | 35 mmol, 4.7 g | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
reactant | Na2SO4 | 30.0 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | hydrochloride | 3 mL | Cl | ClH
reactant | chloral hydrate | 6.5 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | hydroxylamine hydrochloride | 8.00 g | Cl.NO
solvent | water | 150 mL | O | H2O
product | 2-Hydroxyimino-N-(2-isopropyl-phenyl)-acetamide | 4.357 g, 54% | ON=CC(=O)NC1=C(C=CC=C1)C(C)C | C11H14N2O2
